US04242519
Methyl α-methylthio-α-(3-chloro-4-aminophenyl)propionate (380 mg) was dissolved in 4 ml of acetic acid, and an intimate mixture of 406 mg of zinc powder and 1.5 mg of anhydrous copper sulfate was added. The entire mixture was heated under reflux for 1 hour. Water (40 ml) and 15 ml of diethyl ether were added to the reaction mixture. The insoluble matter was separated by filtration, and then the organic layer was separated. Furthermore, the aqueous layer was extracted with 5 ml of diethyl ether. The organic layer and the extract were combined, washed with 15 ml of a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford 299 mg of methyl α-(3-chloro-4-aminophenyl)propionate in a yield of 95.6% as a colorless oil.

reactant | Methyl α-methylthio-α-(3-chloro-4-aminophenyl)propionate | 380 mg | CSC(C(=O)OC)(C)C1=CC(=C(C=C1)N)Cl | C11H14ClNO2S
reactant | Water | 40 ml | O | H2O
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 406 mg | [Zn] | Zn
catalyst | copper sulfate | 1.5 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | methyl α-(3-chloro-4-aminophenyl)propionate | 299 mg, yield of 95.6% | ClC=1C=C(C=CC1N)C(C(=O)OC)C | C10H12ClNO2
